US07220759B2
Using a known method, (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one was converted to a hydrochloride to give (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one hydrochloride dihydrate.

reactant | (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one | OC[C@@H]1N(CCC1)CCC=1NC(C2=CC=CC(=C2C1)C)=O | C17H22N2O2
reactant | hydrochloride | Cl | ClH
product | (R)-3-[2-(2-hydroxymethylpyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one hydrochloride dihydrate | O.O.Cl.OC[C@@H]1N(CCC1)CCC=1NC(C2=CC=CC(=C2C1)C)=O | InChI=1S/C17H22N2O2.ClH.2H2O/c1-12-4-2-6-15-16(12)10-13(18-17(15)21)7-9-19-8-3-5-14(19)11-20;;;/h2,4,6,10,14,20H,3,5,7-9,11H2,1H3,(H,18,21);1H;2*1H2/t14-;;;/m1.../s1
